US06924374B2
1-Butyl-4-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine
Beginning with 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine and 1-bromobutane, the title compound was recovered by the procedure described in Example 2; MS m/z (rel. intensity, 70 eV) 304 (M+, 22), 261 (bp), 218 (22), 190 (21), 70 (46).

reactant | 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine | FC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12F4N2
reactant | 1-bromobutane | BrCCCC | C4H9Br
product | 1-Butyl-4-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine | C(CCC)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)F | C15H20F4N2
